US07585853B2
3-Amino-6-{4-[3-(dicyclobutylamino)propyl]phenyl}-N-pyridin-3-ylpyrazine-2-carboxamide Hydrochloride
n-Butyllithium (0.97 mL, 1.55 mmol) was added dropwise over 20 min to a cooled (−78° C.) solution of N-[3-(4-bromophenyl)propyl]-N,N-dicyclobutylamine (0.10 g, 0.31 mmol) and triisopropyl borate (0.21 mL, 0.93 mmol) in anhydrous tetrahydrofuran (2 mL) under a nitrogen atmosphere. The reaction mixture was stirred for 2 h at −78° C. HCl (aq 3 M, 0.6 mL) was added to the reaction mixture and the mixture was allowed to warm to room temperature. Tetrahydrofuran (2 mL) was added, followed by sodium carbonate (1.1 g, 10.8 mmol), Pd(dppf)Cl2 (0.010 g, 12.2 μmol) and 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide (0.10 g, 0.34 mmol). The mixture was heated to 65° C. for 15 h. The solvent was removed and purification by column chromatography on silica using a gradient methylene chloride to methylene chloride/methanol, (2:1), as the eluent gave a yellow solid. The solid was dissolved in methylene chloride (10 mL) and 1 M HCl in diethyl ether was added while stirring. The formed yellow precipitate was filtered and dried to give 75 mg (53% yield) of the title compound as yellow solid: 1H NMR (D2O, 400 MHz) δ 9.47 (s, 1H), 8.73 (s, 1H), 8.69 (d, J=8.6 Hz, 1H), 8.61 (d, J=5.6 Hz, 1H), 8.10 (dd, J=15, 6 Hz, 1H), 7.98 (d, J=9 Hz, 2H), 7.41 (d, J=9 Hz, 2H), 3.80 (m, 2H), 3.01 (m, 2H), 2.75 (m, 2H), 2.28 (m, 4H), 2.17 (m, 4H), 2.03 (m, 2H), 1.79 (m, 4H); MS (ESI) 457 m/z (M++1).

reactant | n-Butyllithium | 1.55 mmol, 0.97 mL | C(CCC)[Li]
reactant | N-[3-(4-bromophenyl)propyl]-N,N-dicyclobutylamine | 0.31 mmol, 0.10 g | BrC1=CC=C(C=C1)CCCN(C1CCC1)C1CCC1 | C17H24BrN
reactant | triisopropyl borate | 0.93 mmol, 0.21 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 3 M, 0.6 mL | Cl | ClH
reactant | sodium carbonate | 10.8 mmol, 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-amino-6-bromo-N-pyridin-3-ylpyrazine-2-carboxamide | 0.34 mmol, 0.10 g | NC=1C(=NC(=CN1)Br)C(=O)NC=1C=NC=CC1 | C10H8BrN5O
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(dppf)Cl2 | 12.2 μmol, 0.010 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-Amino-6-{4-[3-(dicyclobutylamino)propyl]phenyl}-N-pyridin-3-ylpyrazine-2-carboxamide Hydrochloride | 75 mg, 53% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)CCCN(C1CCC1)C1CCC1)C(=O)NC=1C=NC=CC1 | InChI=1S/C27H32N6O.ClH/c28-26-25(27(34)31-21-6-3-15-29-17-21)32-24(18-30-26)20-13-11-19(12-14-20)5-4-16-33(22-7-1-8-22)23-9-2-10-23;/h3,6,11-15,17-18,22-23H,1-2,4-5,7-10,16H2,(H2,28,30)(H,31,34);1H
